US04112095
Preparation of 3,7-dimethyl-6-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazolo[4,3-b]pyridazine
As in Example 36, a mixture of 8.0 g of 3-chloro-5-methyl-6-(α,α,αtrifluoro-m-tolyl)pyridazine and 4.34 g. of acetylhydrazine in 125 ml. of n-butanol is refluxed for 48 hr. to give 6.2 g. of cream colored crystals, m.p. 185°-187° C.

reactant | 3-chloro-5-methyl-6-(α,α,αtrifluoro-m-tolyl)pyridazine | 8.0 g | ClC=1N=NC(=C(C1)C)C=1C=C(C=CC1)C(F)(F)F | C12H8ClF3N2
reactant | acetylhydrazine | C(C)(=O)NN | C2H6N2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 3,7-dimethyl-6-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazolo[4,3-b]pyridazine | CC1=NN=C2N1N=C(C(=C2)C)C=2C=C(C=CC2)C(F)(F)F | C14H11F3N4
